US09339503B2
2-[4-(Piperidine-1-carbonyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one (“A15”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol) and piperazin-1-ylpiperidin-1-ylmethanone (100.5 mg; 0.51 mmol) are reacted in isoamyl alcohol (1 ml) in accordance with the procedure for Example 1. After a reaction time of 4 h, piperazin-1-ylpiperidin-1-ylmethanone (50.3 mg; 0.26 mmol) and isoamyl alcohol (0.5 ml) are again added, and the mixture is again irradiated in the microwave for 4 h. The crystals obtained after conventional work-up are dissolved in acetonitrile and water and freeze-dried; yield: 17 mg (9%), crystals;

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | piperazin-1-ylpiperidin-1-ylmethanone | 0.51 mmol, 100.5 mg | N1(CCNCC1)C(=O)N1CCCCC1 | C10H19N3O
reactant | piperazin-1-ylpiperidin-1-ylmethanone | 0.26 mmol, 50.3 mg | N1(CCNCC1)C(=O)N1CCCCC1 | C10H19N3O
solvent | isoamyl alcohol | 1 ml | C(CC(C)C)O | C5H12O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | isoamyl alcohol | 0.5 ml | C(CC(C)C)O | C5H12O
product | 2-[4-(Piperidine-1-carbonyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | N1(CCCCC1)C(=O)N1CCN(CC1)C1=NC=2CCCCC2C(N1)=O | C18H27N5O2
